US04699915
N-Isopropyl-N'-[4-(1,2,4-triazol-3-yl)-phenyl]-formamidine
A solution of N-Cyano-N'-[4-(1,2,4-triazol-3-yl)-phenyl]-formamidine (3 g) and isopropylamine (8.5 g) in water (1.5 ml) was stirred for twenty minutes. The crystallized solid was filtered off and purified via its maleate salt in ethanol.

reactant | N-Cyano-N'-[4-(1,2,4-triazol-3-yl)-phenyl]-formamidine | 3 g | C(#N)NC=NC1=CC=C(C=C1)C1=NNC=N1 | C10H8N6
reactant | isopropylamine | 8.5 g | C(C)(C)N | C3H9N
solvent | water | 1.5 ml | O | H2O
product | N-Isopropyl-N'-[4-(1,2,4-triazol-3-yl)-phenyl]-formamidine | C(C)(C)NC=NC1=CC=C(C=C1)C1=NNC=N1 | C12H15N5
